### PR TITLE
introduce total categories

### PR DESCRIPTION
**Pull request by 4e554c4c**
# Description

I wanted to introduce total categories (see #489) and some of their properties, in particular their adjoint functor theorem (that any cocontinuous functor from a total category has a right adjoint).

This turned out to be really hard, and I didn't finish it (but I'm still working). In particular, adjoint functor theorems seem to be *all about* size conditions, and these are a bit tricky when converting from classical texts to the 1lab.

Instead, I explored a lot of concepts, dualized many more, and I thought it'd be best to PR what I have before it gets any more bloated.

Notable (non-dual) additions are:
- ~wide pullbacks~
- free objects are colimits
- diagonal adjoints are (co)limits
- absolute kans are adjoints
- all presheaf epis are regular

## Checklist

Before submitting a merge request, please check the items below:

- [x] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [x] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [x] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/535)
##### New pages

  * [Cat.Diagram.Coseparator](https://preview.1lab.dev/535/Cat.Diagram.Coseparator.html) (+106, -0)
  * [Cat.Functor.Adjoint.ConstD](https://preview.1lab.dev/535/Cat.Functor.Adjoint.ConstD.html) (+103, -0)
  * [Cat.Diagram.Product.Power](https://preview.1lab.dev/535/Cat.Diagram.Product.Power.html) (+94, -0)
  * [Cat.Functor.Adjoint.Cofree](https://preview.1lab.dev/535/Cat.Functor.Adjoint.Cofree.html) (+81, -0)
  * [Cat.Functor.Adjoint.Colimit](https://preview.1lab.dev/535/Cat.Functor.Adjoint.Colimit.html) (+62, -0)
  * [Cat.Instances.Elements.Properties](https://preview.1lab.dev/535/Cat.Instances.Elements.Properties.html) (+51, -0)
  * [Cat.Diagram.Colimit.Terminal](https://preview.1lab.dev/535/Cat.Diagram.Colimit.Terminal.html) (+38, -0)
  * [Cat.Diagram.Pullback.Indexed](https://preview.1lab.dev/535/Cat.Diagram.Pullback.Indexed.html) (+36, -0)
##### Changed pages

  * [Cat.Diagram.Limit.Product](https://preview.1lab.dev/535/Cat.Diagram.Limit.Product.html) (+152, -129)
  * [Cat.Diagram.Pushout.Properties](https://preview.1lab.dev/535/Cat.Diagram.Pushout.Properties.html) (+53, -10)
  * [Cat.Diagram.Duals](https://preview.1lab.dev/535/Cat.Diagram.Duals.html) (+59, -1)
  * [Cat.Functor.Kan.Adjoint](https://preview.1lab.dev/535/Cat.Functor.Kan.Adjoint.html) (+50, -0)
  * [Cat.Instances.Discrete](https://preview.1lab.dev/535/Cat.Instances.Discrete.html) (+26, -7)
  * [Cat.Functor.Reasoning.FullyFaithful](https://preview.1lab.dev/535/Cat.Functor.Reasoning.FullyFaithful.html) (+21, -0)
  * [Cat.Functor.Adjoint](https://preview.1lab.dev/535/Cat.Functor.Adjoint.html) (+19, -1)
  * [Cat.Instances.Presheaf.Colimits](https://preview.1lab.dev/535/Cat.Instances.Presheaf.Colimits.html) (+18, -0)
  * [Cat.Functor.Adjoint.AFT](https://preview.1lab.dev/535/Cat.Functor.Adjoint.AFT.html) (+16, -0)
  * [Cat.Base](https://preview.1lab.dev/535/Cat.Base.html) (+10, -0)
  * [Cat.Diagram.Colimit.Coproduct](https://preview.1lab.dev/535/Cat.Diagram.Colimit.Coproduct.html) (± 5)

File: src/Cat/Diagram/Duals.lagda.md [hunk 1]
```diff
@@ -233,4 +281,14 @@ We could work around this, but it's easier to just do the proofs by hand.
       mc .universal eta p = lim.universal eta p
       mc .factors eta p = lim.factors eta p
       mc .unique eta p other q = lim.unique eta p other q
+
+module _ {o ℓ} {C : Precategory o ℓ} where
+  co-is-cocomplete→is-cocomplete : is-complete o' ℓ' (C ^op) → is-cocomplete o' ℓ' C
+  co-is-cocomplete→is-cocomplete co-complete F = Co-limit→Colimit $ co-complete $ Functor.op F
```
Comment (plt-amy) [inline src/Cat/Diagram/Duals.lagda.md:287]: i think theres a co too many before the arrow

File: src/Cat/Functor/Adjoint/ConstD.lagda.md [hunk 2]
```diff
@@ -0,0 +1,103 @@
...
+  ψ = unit .η
+  commutes {j} {k} f = unit .is-natural _ _ f ∙ idl _
+  universal {x} eta commutes = fold {x} (NT eta λ j k f → commutes f ∙ sym (idl _))
+  factors {j} eta p = commute {f = NT eta λ x y f → p f ∙ sym (idl _)} ηₚ j
+  unique eta p other commutes = unique other $ ext commutes
+
+colim→Δfree : Colimit F → Free-object ConstD F
+colim→Δfree {F} colim = record where
+  -- causes crash
+  --open module colim = Colimit colim using (coapex; cocone)
```
Comment (plt-amy) [inline src/Cat/Functor/Adjoint/ConstD.lagda.md:49]: not anymore right

Comment (4e554c4c) [reply src/Cat/Functor/Adjoint/ConstD.lagda.md:49]: oh i forgor u fixed it

File: src/Cat/Total.lagda.md [hunk 3]
```diff
@@ -0,0 +1,177 @@
...
+    o' ℓ' : Level
+    E : Precategory o' ℓ'
+    J : Precategory o' ℓ'
+```
+-->
+
+# Total precategories {defines="total-precategory"}
+
+A precategory is **total** if its yoneda embedding has a left adjoint.
+We call this adjoint $\sa$, a reading for 左.
```
Comment (plt-amy) [inline src/Cat/Total.lagda.md:56]: definitely like mention that this is the character "sa" and that zuǒ means left

File: src/Data/Set/Surjection.lagda.md [hunk 4]
```diff
@@ -240,3 +247,71 @@ epi→surjective
...
+module _ {o ℓ κ} {C : Precategory o ℓ} where
+  private
+    module C = Cr C
+    module PShc = Cr (PSh κ C)
+  open _=>_
+  open Functor
+  open is-regular-epi
+  -- https://stacks.math.columbia.edu/tag/00v5
+  psh-epi-is-pointwise-epi : ∀ {F G : ⌞ PSh κ C ⌟} {ε : F => G} → PShc.is-epic ε → ∀ {i} → Cr.is-epic (Sets κ) {a = F .F₀ i} {b = G .F₀ i} (ε .η i)
+  psh-epi-is-pointwise-epi {F = F} {G} {ε} m-epic {i} {c}= foo'' {c = c} where
```
Comment (plt-amy) [inline src/Data/Set/Surjection.lagda.md:263]: this should be called `is-epic→is-epic-at` to match `is-monic→is-embedding-at`

File: src/Cat/Functor/Adjoint/Colimit.lagda.md [hunk 5]
```diff
@@ -0,0 +1,64 @@
...
+    module D = Cr D
+    module U = FFR U ff
+    module diagram = Functor diagram
+    module colim = make-is-colimit (unmake-colimit (Colimit.has-colimit colim))
+  open make-is-colimit
+```
+-->
+
+### Free objects and colimits
+
```
Comment (plt-amy) [inline src/Cat/Functor/Adjoint/Colimit.lagda.md:42]: this could use prose

File: src/Cat/Functor/Adjoint/AFT.lagda.md [hunk 6]
```diff
@@ -123,3 +130,12 @@ the sea has risen above it:
       (comma-is-complete F c-compl F-cont)
       (solution-set→family-is-weak-initial (ss x))
 ```
+
+# The "Kan" adjoint functor theorem
+
```
Comment (plt-amy) [inline src/Cat/Functor/Adjoint/AFT.lagda.md:135]: prose here too

File: src/Cat/Diagram/Pullback/Indexed.lagda.md [hunk 7]
```diff
@@ -0,0 +1,40 @@
...
+    o' ℓ' : Level
+    Idx : Type ℓ'
+    A B P : C.Ob
+```
+-->
+
+# Wide pullabacks {defines="wide-pullback indexed-pullback"}
+
+Just as [[products in a slice]] category are pullbacks in $\cC$,
+pullbacks of arbitrary cardinary may be seen as indexed products in its
```
Comment (plt-amy) [inline src/Cat/Diagram/Pullback/Indexed.lagda.md:31]:
```suggestion
pullbacks of arbitrary cardinality may be seen as indexed products in its
```

Comment (plt-amy) [reply src/Cat/Diagram/Pullback/Indexed.lagda.md:31]: i think this paragraph needs to be redone

File: src/Cat/Diagram/Product/Power.lagda.md [hunk 8]
```diff
@@ -0,0 +1,94 @@
...
+$A: \cC$, we have a natural isomorphism
+
+$$
+\hom_\cC(-, X \pitchfork A) \cong \hom_{\Sets}(X, \hom_\cC(-, A)).
+$$
+
+```agda
+  power-hom-iso
+    : ∀ {X A}
+    → よ₀ C (X ⋔ A) ≅ⁿ (unopF $ opFʳ (よ₀ (Sets ℓ ^op) X)) F∘ よ₀ C A
```
Comment (plt-amy) [inline src/Cat/Diagram/Product/Power.lagda.md:57]: maybe use Hom-into instead of よ for clarity?

File: src/Cat/Diagram/Limit/Product.lagda.md [hunk 9]
```diff
@@ -118,66 +125,98 @@ $F : I \to \cC$ is the same thing as a limit over $F$, considered as
...
-    to-limit (is-indexed-product→is-limit has-is-ip)
-    where open Indexed-product ip
-
-  Limit→IP : Limit {C = C} (Disc-adjunct {iss = i-is-grpd} F) → Indexed-product C F
-  Limit→IP lim .Indexed-product.ΠF = _
-  Limit→IP lim .Indexed-product.π = _
-  Limit→IP lim .Indexed-product.has-is-ip =
-    is-limit→is-indexed-product (Limit.has-limit lim)
+As indexed products are limits, they are preserved by continuous
+functors.
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Product.lagda.md:198]: can you make sure there's blank lines between each paragraph and code (and commented code and more code)

File: src/Cat/Diagram/Duals.lagda.md [hunk 10]
```diff
@@ -109,17 +142,33 @@ $C\op$. We prove these correspondences here:
...
+  Terminal→Coinitial term .bot = term .top
+  Terminal→Coinitial term .has⊥ = is-terminal→is-coinitial (term .has⊤)
+
   Initial→Coterminal : Initial C → Terminal (C ^op)
   Initial→Coterminal init .top = init .bot
   Initial→Coterminal init .has⊤ = is-initial→is-coterminal (init .has⊥)
+
+  CoInitial→terminal : Initial (C ^op) → Terminal C
+  CoInitial→terminal init .top = init .bot
+  CoInitial→terminal init .has⊤ = is-coinitial→is-terminal (init .has⊥)
```
Comment (plt-amy) [inline src/Cat/Diagram/Duals.lagda.md:171]:
```suggestion
  Coinitial→Terminal : Initial (C ^op) → Terminal C
  Coinitial→Terminal init .top = init .bot
  Coinitial→Terminal init .has⊤ = is-coinitial→is-terminal (init .has⊥)
```

File: src/Cat/Diagram/Coseparator.lagda.md [hunk 11]
```diff
@@ -0,0 +1,106 @@
...
+```agda
+is-coseparating-family : ∀ {ℓi} {Idx : Type ℓi} → (Idx → Ob) → Type _
+is-coseparating-family s =
+  ∀ {x y} {f g : Hom x y}
+  → (∀ {i} (mᵢ : Hom y (s i)) → mᵢ ∘ f  ≡ mᵢ ∘ g )
+  → f ≡ g
+```
+
+## Coseparators and powers
+
```
Comment (plt-amy) [inline src/Cat/Diagram/Coseparator.lagda.md:64]: prose?

Comment (plt-amy) [reply src/Cat/Diagram/Coseparator.lagda.md:64]: hmm we have it for the dual version. your choice of prose or a link to the individual section on the other page

File: src/Cat/Functor/Adjoint/Colimit.lagda.md [hunk 12]
```diff
@@ -0,0 +1,64 @@
...
+```agda
+  module _ (ob : Free-object U coapex) where
+    private
+      open module ob = Free-object ob
+    free-object→make-is-colimit : make-is-colimit diagram free
```
Comment (plt-amy) [inline src/Cat/Functor/Adjoint/Colimit.lagda.md:47]:
```suggestion
      open module ob = Free-object ob

    free-object→make-is-colimit : make-is-colimit diagram free
```
i think in general your code could use more breathing room

File: src/Cat/Functor/Adjoint/ConstD.lagda.md
Comment (plt-amy) [inline src/Cat/Functor/Adjoint/ConstD.lagda.md:1]: i really don't like the names in this module but i don't really have any suggestions offhand so maybe we can workshop them a bit

Comment (plt-amy) [reply src/Cat/Functor/Adjoint/ConstD.lagda.md:1]: in general im hesitant to just put a Δ in the name to mean constant. thats the biggest issue

File: src/Cat/Instances/Discrete.lagda.md [hunk 13]
```diff
@@ -202,5 +211,15 @@ Disc-natural₂ {C = C} {F = F} {G = G} fam .is-natural x y (p , q) =
...
+
+open _≅_
+open Inverses
+Disc-natural-iso : ∀ {X : Set ℓ}
+  → {F G : Functor (Disc' X) C}
+  → (∀ x → Isomorphism C (F .F₀ x) (G .F₀ x))
+  → F ≅ⁿ G
+Disc-natural-iso isos .to = Disc-natural λ x → isos x .to
+Disc-natural-iso isos .from = Disc-natural λ x → isos x .from
+Disc-natural-iso isos .inverses = to-inversesⁿ (λ x → isos x .inverses .invl ) (λ x → isos x .inverses .invr)
```
Comment (plt-amy) [inline src/Cat/Instances/Discrete.lagda.md:223]:
```suggestion
Disc-natural-iso isos .inverses = to-inversesⁿ (λ x → isos x .inverses .invl) (λ x → isos x .inverses .invr)
```

File: src/Cat/Total.lagda.md (hunk 3 above)
Comment (plt-amy) [reply src/Cat/Total.lagda.md:56]: this could use a motivation section or something like that. why do we care. are these natural at all

File: src/Data/Set/Surjection.lagda.md [hunk 14]
```diff
@@ -240,3 +247,71 @@ epi→surjective
...
+    psh-epi-is-regular .has-is-coeq .coequal = ext λ x s r p → p
+    psh-epi-is-regular .has-is-coeq .universal {Q} p .η x = pr.universal x {Q .F₀ x} (p ηₚ x)
+    psh-epi-is-regular .has-is-coeq .universal {Q} {e'} p .is-natural x y f =  pr.is-regular-epi→is-epic x {c = Q .F₀ y} _ _ $  ext λ s →
+      pr.universal y {Q .F₀ y} (p ηₚ y) (G ⟪ f ⟫ ε.η x s)   ≡˘⟨ ap (pr.universal y {Q .F₀ y} (p ηₚ y)) (ε.is-natural x y f · s) ⟩
+      pr.universal y {Q .F₀ y} (p ηₚ y) (ε.η y (F ⟪ f ⟫ s)) ≡⟨ pr.factors y {Q .F₀ y} {e' .η y} {p ηₚ y} · (F ⟪ f ⟫ s) ⟩
+      e' .η y (F ⟪ f ⟫ s)                                   ≡⟨ e' .is-natural x y f · s ⟩
+      Q ⟪ f ⟫ e' .η x s                                     ≡˘⟨ ap (Q ⟪ f ⟫_) (pr.factors x {Q .F₀ x} {e' .η x} {p ηₚ x} · s) ⟩
+      Q ⟪ f ⟫ pr.universal x {Q .F₀ x} (p ηₚ x) (ε.η x s)   ∎
+    psh-epi-is-regular .has-is-coeq .factors {Q} {e'} {p} = Nat-path λ x → pr.factors x {Q .F₀ x} {e' = e' .η x} {p = p ηₚ x}
+    psh-epi-is-regular .has-is-coeq .unique {Q} {e'} {p} {colim} q = Nat-path λ x → pr.unique x {Q .F₀ x} {e' .η x} {p ηₚ x} {colim .η x} (q ηₚ x)
```
Comment (plt-amy) [inline src/Data/Set/Surjection.lagda.md:316]:
```suggestion
    psh-epi-is-regular : is-regular-epi (PSh κ C) ε
    psh-epi-is-regular .r .F₀ c = pr.r c
    psh-epi-is-regular .r .F₁ {x} {y} f e@(s , r , p) = F ⟪ f ⟫ s , (F ⟪ f ⟫ r) , path where abstract
      path : ε.η y (F.F₁ f s) ≡ ε.η y (F.F₁ f r)
      path = ε.is-natural x y f · s ∙ ap (G.F₁ f) p ∙ sym (ε.is-natural x y f · r)
    psh-epi-is-regular .r .F-id {c} = ext λ s r p → pb-path (F.F-id · s) (F.F-id · r)
    psh-epi-is-regular .r .F-∘ f g = ext λ s r p → pb-path (F.F-∘ _ _ · s) (F.F-∘ _ _ · r)

    psh-epi-is-regular .arr₁ .η x (s , _ , _) = s
    psh-epi-is-regular .arr₁ .is-natural _ _ _ = ext λ _ _ _ → refl
    psh-epi-is-regular .arr₂ .η x (_ , r , _) = r
    psh-epi-is-regular .arr₂ .is-natural _ _ _ = ext λ _ _ _ → refl

    psh-epi-is-regular .has-is-coeq .coequal = ext λ x s r p → p
    
    psh-epi-is-regular .has-is-coeq .universal {Q} p .η x = pr.universal x {Q .F₀ x} (p ηₚ x)
    psh-epi-is-regular .has-is-coeq .universal {Q} {e'} p .is-natural x y f =  pr.is-regular-epi→is-epic x {c = Q .F₀ y} _ _ $  ext λ s →
      pr.universal y {Q .F₀ y} (p ηₚ y) (G ⟪ f ⟫ ε.η x s)   ≡˘⟨ ap (pr.universal y {Q .F₀ y} (p ηₚ y)) (ε.is-natural x y f · s) ⟩
      pr.universal y {Q .F₀ y} (p ηₚ y) (ε.η y (F ⟪ f ⟫ s)) ≡⟨ pr.factors y {Q .F₀ y} {e' .η y} {p ηₚ y} · (F ⟪ f ⟫ s) ⟩
      e' .η y (F ⟪ f ⟫ s)                                   ≡⟨ e' .is-natural x y f · s ⟩
      Q ⟪ f ⟫ e' .η x s                                     ≡˘⟨ ap (Q ⟪ f ⟫_) (pr.factors x {Q .F₀ x} {e' .η x} {p ηₚ x} · s) ⟩
      Q ⟪ f ⟫ pr.universal x {Q .F₀ x} (p ηₚ x) (ε.η x s)   ∎
      
    psh-epi-is-regular .has-is-coeq .factors {Q} {e'} {p} = Nat-path λ x → pr.factors x {Q .F₀ x} {e' = e' .η x} {p = p ηₚ x}
    psh-epi-is-regular .has-is-coeq .unique {Q} {e'} {p} {colim} q = Nat-path λ x → pr.unique x {Q .F₀ x} {e' .η x} {p ηₚ x} {colim .η x} (q ηₚ x)
```

i would break it up about this much probably

File: src/Cat/Diagram/Pullback/Indexed.lagda.md (hunk 7 above)
Comment (4e554c4c) [reply src/Cat/Diagram/Pullback/Indexed.lagda.md:31]: i actually don't care about these if i can't use wide text

Comment (plt-amy) [reply src/Cat/Diagram/Pullback/Indexed.lagda.md:31]: …

File: src/Cat/Instances/Presheaf/Colimits.lagda.md [hunk 15]
```diff
@@ -108,13 +124,106 @@ PSh-coequaliser {X = X} {Y = Y} f g = coequ where
...
+  ι₁ = PSh-pushouts ε ε  .i₁
+
+  ι₂ : G => H
+  ι₂ = PSh-pushouts ε ε  .i₂
+
+  p' : ι₁ ≡ ι₂
+  p' = m-epic ι₁ ι₂ $ PSh-pushouts ε ε .square
+
+  epi : Cat.is-epic (Sets κ) {a = F .F₀ i} {b = G .F₀ i} (ε .η i)
+  epi {c} = injections-eq→is-epic (Sets-pushouts {A = G .F₀ i} {B = G .F₀ i} {C = F .F₀ i} (ε .η i) (ε .η i) .has-is-po) (p' ηₚ i) {c = c}
```
[the remark this answers is not in the document]
Comment (plt-amy) [reply src/Cat/Instances/Presheaf/Colimits.lagda.md:171]: the definition below too

File: src/Cat/Instances/Presheaf/Colimits.lagda.md [hunk 16]
```diff
@@ -108,13 +124,106 @@ PSh-coequaliser {X = X} {Y = Y} f g = coequ where
...
+    pb-path p q i .fst = p i
+    pb-path p q i .snd .fst = q i
+    pb-path {idx} {x} {y} p q i .snd .snd j =
+      is-set→squarep (λ _ _ → G.₀ idx .is-tr)
+        (ap (ε .η idx) p) (x .snd .snd) (y .snd .snd) (ap (ε .η idx) q)
+        i j
+```
+-->
+
+```agda
```
[the remark this answers is not in the document]
Comment (plt-amy) [reply src/Cat/Instances/Presheaf/Colimits.lagda.md:203]: in the prose

File: src/Cat/Instances/Shape/Terminal.lagda.md [hunk 17]
```diff
@@ -50,6 +50,16 @@ terminal category is a [[pregroupoid]].
 
 <!--
 ```agda
+⊤Cat-idemp : ⊤Cat ^op ≡ ⊤Cat
```
Comment (plt-amy) [inline src/Cat/Instances/Shape/Terminal.lagda.md:53]: path of categories not a very good idea imo

File: src/Cat/Total.lagda.md [hunk 18]
```diff
@@ -0,0 +1,187 @@
...
+  variable
+    o' ℓ' : Level
+    E : Precategory o' ℓ'
+    J : Precategory o' ℓ'
+```
+-->
+
+# Total precategories {defines="total-precategory"}
+
+A precategory is **total** if its yoneda embedding has a left adjoint.
```
Comment (plt-amy) [inline src/Cat/Total.lagda.md:55]:
```suggestion
A precategory is **total** if its [[Yoneda embedding]] has a [[left adjoint]].
```

i should write a linter for this

File: src/Cat/Total.lagda.md [hunk 19]
```diff
@@ -0,0 +1,187 @@
...
+  field
+    {さ} : Functor Cat[ C ^op , Sets ℓ ] C
+    has-よ-adj : さ ⊣ よ
+  open module さ = Cat.Functor.Reasoning さ using () renaming (F₀ to さ₀; F₁ to さ₁) public
+```
+
+## Motivation
+
+Total categories represent a particularly nice site in which to do
+logic, as they are a reflective subcategory of their category of
```
Comment (plt-amy) [inline src/Cat/Total.lagda.md:70]:
```suggestion
logic, as they are a [[reflective subcategory]] of their category of
```

maybe not under this name but we definitely have this wikilink

File: src/Cat/Total.lagda.md [hunk 20]
```diff
@@ -0,0 +1,187 @@
...
+
+
+## さ on values
+
+For each $F$,  $\sa(F)$ yields a free value on $F$ relative to $\yo$. As
+we have proved, this is a colimit.
+
+```agda
+  さ₀-is-colimit : (F : ⌞ PSh ℓ C ⌟) → is-colimit (πₚ C F) (さ₀ F) _
+  さ₀-is-colimit F = free-is-colimit F  $ left-adjoint→free-objects has-よ-adj F
```
Comment (plt-amy) [inline src/Cat/Total.lagda.md:134]:
```suggestion
  さ₀-is-colimit F = free-is-colimit F $ left-adjoint→free-objects has-よ-adj F
```

File: src/Cat/Total.lagda.md [hunk 21]
```diff
@@ -0,0 +1,187 @@
...
+```
+
+## Cocompleteness
+
+Thus, all total categories are [[cocomplete]] as their colimits can be
+computed in $\psh(\cC)$.
+
+```agda
+  cocomplete : is-cocomplete ℓ ℓ C
+  cocomplete F = natural-iso→colimit さ∘よ∘F≅ⁿF $ left-adjoint-colimit has-よ-adj $ PSh-cocomplete ℓ C (よ F∘ F)
```
Comment (plt-amy) [inline src/Cat/Total.lagda.md:144]: style

File: src/Cat/Total.lagda.md [hunk 22]
```diff
@@ -0,0 +1,187 @@
...
+
+  private
+    ★-is-colimit-id : is-colimit (Id {C = C}) ★ _
+    ★-is-colimit-id = extend-is-colimit _ (right-adjoint-is-final (elements-terminal-is-equivalence.F⁻¹⊣F {s = ℓ})) _ col'
+      where
+      open is-equivalence
+      col : is-colimit (πₚ C $ ⊤PSh _ _) ★ _
+      col = さ₀-is-colimit _
+      col' : is-colimit (Id F∘ πₚ C (⊤PSh _ _)) ★ _
+      col' = natural-iso-ext→is-lan (left-adjoint-is-cocontinuous (Id-is-equivalence .F⊣F⁻¹) col) (!const-isoⁿ id-iso)
```
Comment (plt-amy) [inline src/Cat/Total.lagda.md:167]: style

File: src/Cat/Total.lagda.md [hunk 23]
```diff
@@ -0,0 +1,187 @@
...
+## Copowers
+
+As `C` is cocomplete, it has all set-indexed coproducts
+```agda
+  open Cat.Diagram.Colimit.Coproduct C
+  has-set-indexed-coproducts : (S : Set ℓ) → has-coproducts-indexed-by C ∣ S ∣
+  has-set-indexed-coproducts S F = Colimit→IC F (cocomplete $ Disc-adjunct F)
+```
+
+and is thus copowered.
```
Comment (plt-amy) [inline src/Cat/Total.lagda.md:183]: don't break up a prose paragraph with code.

File: src/Cat/Instances/Presheaf/Colimits.lagda.md (hunk 16 above)
[the remark this answers is not in the document]
Comment (4e554c4c) [reply src/Cat/Instances/Presheaf/Colimits.lagda.md:203]: Image

File: src/Cat/Instances/Shape/Terminal.lagda.md (hunk 17 above)
Comment (4e554c4c) [reply src/Cat/Instances/Shape/Terminal.lagda.md:53]: what would be better? an isomorphism?

File: src/Cat/Diagram/Coseparator.lagda.md [hunk 24]
```diff
@@ -0,0 +1,110 @@
...
+  coseparator→mono {s} {x} cosep f g p =  cosep λ m →
+    m ∘ f                                   ≡⟨ pushl (sym $ ⋔!.commute _ _) ⟩
+    ⋔!.π _ _ m ∘ (⋔!.tuple _ _ λ f → f) ∘ f ≡⟨ refl⟩∘⟨ p ⟩
+    ⋔!.π _ _ m ∘ (⋔!.tuple _ _ λ f → f) ∘ g ≡⟨ pulll $ ⋔!.commute _ _ ⟩
+    m ∘ g                                   ∎
+
+  mono→coseparator
+    : ∀ {s} → (∀ {x} → is-monic (⋔!.tuple (Hom x s) s λ f → f)) → is-coseparator s
+  mono→coseparator monic {f = f} {g = g} p = monic f g $ ⋔!.unique₂ _ _ λ m →
+      assoc _ _ _ ∙ p _ ∙ sym (assoc _ _ _)
```
Comment (plt-amy) [inline src/Cat/Diagram/Coseparator.lagda.md:83]:
```suggestion
  mono→coseparator monic {f = f} {g = g} p = monic f g $ ⋔!.unique₂ _ _ λ m →
    assoc _ _ _ ∙ p _ ∙ sym (assoc _ _ _)
```
